US08389524B2
(1R)-1-({4-[([1,3]Oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
A suspension of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride (165 mg, 0.441 mmol) in chloroform (10 ml) and methanol (0.4 ml) at room temperature under argon was treated with triethylamine (0.184 ml, 1.323 mmol) and stirred for 0.25 h (the suspension turned into a solution). [1,3]Oxathiolo[5,4-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144 Example 61) (73.7 mg, 0.441 mmol) was then added and the reaction was stirred at room temperature for 0.5 h. Sodium triacetoxyborohydride (280 mg, 1.323 mmol) was then added and the reaction was stirred at room temperature. After 1.5 h LCMS showed that there was still some imine present in the mixture so 1 eq of sodium triacetoxyborohydride was added. After 1 h saturated NaHCO3 (50 ml) was added followed by 20% methanol/dichloromethane (80 ml) and the aqueous layer was extracted and then separated from the organic layer. The aqueous layer was extracted again twice with 20% methanol/dichloromethane (2×80 ml). The combined organic extracts were dried on magnesium sulphate, filtered and evaporated to afford 215 mg of crude product which was purified by silica chromatography using a 0-20% methanol/dichloromethane gradient to afford the free base of the title compound as a yellow solid (185 mg, 93%).

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride | 0.441 mmol, 165 mg | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=NC=3C=CC(N1C23)=O)=O
reactant | triethylamine | 1.323 mmol, 0.184 ml | C(C)N(CC)CC | C6H15N
reactant | [1,3]Oxathiolo[5,4-c]pyridine-6-carbaldehyde | S1COC=2C=NC(=CC21)C=O | C7H5NO2S
reactant | Sodium triacetoxyborohydride | 1.323 mmol, 280 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 1 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.4 ml | CO | CH4O
solvent | methanol dichloromethane | 80 ml | CO.ClCCl
product | (1R)-1-({4-[([1,3]Oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | 185 mg, 93% | Cl.S1COC=2C=NC(=CC21)CNC2CCN(CC2)C[C@@H]2CN1C(C=NC=3C=CC(N2C13)=O)=O | InChI=1S/C22H24N6O3S.ClH/c29-20-2-1-17-22-27(21(30)10-25-17)12-16(28(20)22)11-26-5-3-14(4-6-26)23-8-15-7-19-18(9-24-15)31-13-32-19;/h1-2,7,9-10,14,16,23H,3-6,8,11-13H2;1H/t16-;/m1./s1
